US07683060B2
Step 5. 1-(3-Methyl[1,2,4]triazolo[4,3-a]pyridin-6-yl)cyclopropanecarboxylic acid
To a solution of methyl 1-(6-hydrazinopyridin-3-yl)cyclopropanecarboxylate (150 mg, 0.72 mol) in ethanol (3 mL) was added acetaldehyde (33.5 mg, 0.760 mmol) and acetic acid (41 μL, 0.72 mmol). The mixture was stirred at RT for 2 h, and then concentrated to dryness. The residue was dissolved in methylene chloride (3 mL), and iodobenzene diacetate (256 mg, 0.796 mmol) was added dropwise. The reaction mixture was stirred at RT overnight. The reaction solution was concentrated to dryness. The residue was purified through silica gel chromatograph using 10% MeOH in CH2Cl2 to afford the desired compound (50 mg, 30%). Analytical LCMS: (M+H)+=218.0.

reactant | methyl 1-(6-hydrazinopyridin-3-yl)cyclopropanecarboxylate | 0.72 mol, 150 mg | N(N)C1=CC=C(C=N1)C1(CC1)C(=O)OC | C10H13N3O2
reactant | acetaldehyde | 0.760 mmol, 33.5 mg | C(C)=O | C2H4O
reactant | acetic acid | 0.72 mmol, 41 μL | C(C)(=O)O | C2H4O2
reactant | iodobenzene diacetate | 0.796 mmol, 256 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-(3-Methyl[1,2,4]triazolo[4,3-a]pyridin-6-yl)cyclopropanecarboxylic acid | 50 mg, 30% | CC1=NN=C2N1C=C(C=C2)C2(CC2)C(=O)O | C11H11N3O2
